US06191166B1
Diethyl 2-(3-pyridylmethyl)-2-acetamidomalonate was dissolved in 6N HCl (30 mL) and heated to reflux for 19 hours whereupon it was cooled to room temperature and the HCl solution was removed by evaporation in vacuo. The intermediate amino acid dihydrochloride salt was taken up into MeOH (30 mL) saturated with HCl gas and stirred for 3.5 hours. The MeOH/HCl was removed by evaporation in vacuo to give 3-(3-pyridyl)alanine methyl ester dihydrochloride (2.235 g, 100%).

reactant | Diethyl 2-(3-pyridylmethyl)-2-acetamidomalonate | N1=CC(=CC=C1)CC(C(=O)OCC)(C(=O)OCC)NC(C)=O | C15H20N2O5
reactant | HCl | 6N, 30 mL | Cl | ClH
product | 3-(3-pyridyl)alanine methyl ester dihydrochloride | 2.235 g, 100% | Cl.Cl.COC([C@@H](N)CC=1C=NC=CC1)=O | InChI=1S/C9H12N2O2.2ClH/c1-13-9(12)8(10)5-7-3-2-4-11-6-7;;/h2-4,6,8H,5,10H2,1H3;2*1H/t8-;;/m0../s1
